Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:6][C:7]([H:8])([H:9])[H:10].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.31479166533
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2][O:3].[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.53899215275
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10]>>[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.76970448519
[C:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[C:1]=[C:2]([H:3])[H:4].[C:5][O:6][H:7],0.48745688741
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2],0.868904869151
[H:1][O:2][C:3]/[C:10](=[C:8](/[C:6](=[C:4][H:5])[H:7])[H:9])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1[H:11],-4.1765775448800015
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][O:11]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]1[O:10][O:11]1,0.23386656299000005
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[H:9].[H:1][C:2][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.03256154657
[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-7.610031303049999
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],-0.15593862578
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[C:3](=[O:4])[H:5],3.17289717503
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2],8.51309031721
[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9].[H:1]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9],-4.12972804656
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.12577258007
[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.60203298504
[C:5]([H:6])[C:7]([H:8])=[C:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],-4.854191424780001
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.12914509125
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]>>[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.7486902221989999
[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([O:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.64217737247
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:14]([H:15])([H:16])[H:17].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.0502027625
[H:7].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.44671172387
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.53687845695
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],2.90326099655
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],2.85782428643
[H:1][O:2][C:3][C:4]#[C:5].[O:6][H:7]>>[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7],-5.47932269377
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],4.54586236214
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[H:10],2.0668658039200003
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:13][H:14],1.57805919077
[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4],1.2036662286700002
